US07618961B2
Ethyl (2-{[(5-fluoro-2-methylphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 5-fluoro-2-methylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (32.7 mg) with purity >90%. LCMS (pos) m/z 359.2.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 5-fluoro-2-methylbenzenesulfonyl chloride | FC=1C=CC(=C(C1)S(=O)(=O)Cl)C | C7H6ClFO2S
product | Ethyl (2-{[(5-fluoro-2-methylphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | FC=1C=CC(=C(C1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC)C | C14H15FN2O4S2
